US05977178
To a suspension of 4-aminocyclohexane carboxylic acid (3.0 g, 20.95 mmol) in dioxan (40 mL) and water (20 mL) was added 20 ml of a 1M sodium hydroxide solution. Di-tert-butyl dicarbonate (5.0 g, 23.05 mmol) was added and the mixture was stirred overnight. The mixture was concentrated in vacuo to 30 ml of solvent and 60 ml of ethyl acetate was added and the mixture was cooled to 0° C. The mixture was acidified to pH 2 with sodium bisulfate and the aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic phases were washed with water (100 ml) and dried over magnesium sulfate and concentrated in vacuo to give 4.13 g of 4-tert-butoxycarbonylamino cyclohexanecarboxylic acid.

reactant | 4-aminocyclohexane carboxylic acid | 20.95 mmol, 3.0 g | NC1CCC(CC1)C(=O)O | C7H13NO2
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 23.05 mmol, 5.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxan | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | 4-tert-butoxycarbonylamino cyclohexanecarboxylic acid | 4.13 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)C(=O)O | C12H21NO4
